US09450195B2
A 100 ml three neck round bottom flask was charged with 2-bromo-9-(pyridin-2-yl)-9H-carbazole (10.15 g, 31.4 mmol), copper(I) iodide (1.196 g, 6.28 mmol), N1,N2-dimethylcyclohexane-1,2-diamine (1.981 ml, 12.56 mmol), sodium iodide (18.83 g, 126 mmol), and Dioxane (60 ml.). The reaction mixture was then heated to reflux for 18 hours. The reaction mixture was diluted with deionized water and extracted with ethyl acetate. The organic portion was combined and subjected to column chromatography (SiO2, 50%/DCM in heptane) to yield 2-iodo-9-(pyridin-2-yl)-9H-carbazole (9.66 g, 83%).

reactant | 2-bromo-9-(pyridin-2-yl)-9H-carbazole | 31.4 mmol, 10.15 g | BrC1=CC=2N(C3=CC=CC=C3C2C=C1)C1=NC=CC=C1 | C17H11BrN2
reactant | N1,N2-dimethylcyclohexane-1,2-diamine | 12.56 mmol, 1.981 ml | CNC1C(CCCC1)NC | C8H18N2
reactant | sodium iodide | 126 mmol, 18.83 g | [I-].[Na+]
reactant | Dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | copper(I) iodide | 6.28 mmol, 1.196 g | [Cu]I
product | 2-iodo-9-(pyridin-2-yl)-9H-carbazole | 9.66 g, 83% | IC1=CC=2N(C3=CC=CC=C3C2C=C1)C1=NC=CC=C1 | C17H11IN2
